US07125901B2
To a mixture of N-(4-{2-[4-(hydroxymethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (50 mg) prepared in a similar manner according to Step 3 of the following Production Example 16, carbon tetrabromide (72 mg) and dichloromethane (1 ml) was added triphenylphosphine (71 mg), and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was purified by flash column chromatography on silica gel with 1% methanol/chloroform as an eluent. The crystalline residue was collected and washed with diisopropyl ether to give N-(4-{2-[4-(bromomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (48 mg).

reactant | N-(4-{2-[4-(hydroxymethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 50 mg | OCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H16N2O2S
reactant | carbon tetrabromide | 72 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 71 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(4-{2-[4-(bromomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 48 mg | BrCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H15BrN2OS
